US05180742
6N Hydrochloric acid (10 ml) was added to a solution of ethyl 6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-6-(2-thienyl)hexanoate (1.7 g, 4.5 mmole) in tetrahydrofuran (10 ml), followed by stirring for 17 hours with heating at 70° C. After cooling, isopropyl ether was added to the mixture, and the organic layer was washed twice with water, dried and concentrated under reduced pressure. The residue was chromatographed on a silica gel column, and elution was performed with isopropyl ether-ethyl acetate (1:1), followed by recrytallization from isopropyl ether to give 6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-6-(2-thienyl)hexanoic acid (1.1 g, 70%).

reactant | Hydrochloric acid | 6N, 10 ml | Cl | ClH
reactant | ethyl 6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-6-(2-thienyl)hexanoate | 4.5 mmole, 1.7 g | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCC(=O)OCC)C=1SC=CC1 | C21H26O4S
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-6-(2-thienyl)hexanoic acid | 1.1 g, 70% | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCC(=O)O)C=1SC=CC1 | C19H22O4S
